US06048868
10-Methoxyharmalan (646 mg, 3 mmol) is dissolved in dry dichloromethane (40 ml). Triethylamine (1 ml, 7.2 mmol) and then, dropwise, mesyl chloride (0.25 ml, 3.2 mmol) are successively added with stirring at room temperature under a nitrogen atmosphere. The mixture is stirred for 4 hours at room temperature. Subsequently, after removal of the dichloromethane, the residue is subjected to flash chromatography on a silica column (AcOEt/PE, 50/50). 1-Methylene-2-mesyl-6-methoxy-1,2,3,4-tetrahydro-β-carboline is thus obtained (350 mg, Y=40%).

reactant | 10-Methoxyharmalan | 3 mmol, 646 mg | CC1=C2C(=C3C=C(C=CC3=N2)OC)CCN1 | C13H14N2O
reactant | Triethylamine | 7.2 mmol, 1 ml | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 3.2 mmol, 0.25 ml | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 1-Methylene-2-mesyl-6-methoxy-1,2,3,4-tetrahydro-β-carboline | C=C1N(CCC=2C3=CC(=CC=C3NC12)OC)S(=O)(=O)C | C14H16N2O3S
